US07012075B2
To a 0° C. solution of N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)leucine (46 mg, 0.10 mmol), aminoacetonitrile hydrochloride (21 mg, 0.23 mmol) and HATU. (140 mg, 0.36 mmol) in DMF (3 mL) was added triethylamine (0.06 mL, 0.43 mmol). The solution was stirred 1 h, then partitioned between ether and pH 3.5 phosphate buffer. The organic phase was washed with brine and concentrated. Purification by flash chromatography (40% to 60% ethyl acetate/hexanes) gave 15.5 mg of N1-(cyanomethyl)-N2-[3-(4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl)isoxazol-4-yl]leucinamide.

reactant | N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)leucine | 0.10 mmol, 46 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NOC=C1N[C@@H](CC(C)C)C(=O)O | C24H34N4O5
reactant | aminoacetonitrile hydrochloride | 0.23 mmol, 21 mg | Cl.NCC#N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.43 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N1-(cyanomethyl)-N2-[3-(4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl)isoxazol-4-yl]leucinamide | 15.5 mg | C(#N)CNC([C@@H](NC=1C(=NOC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C26H36N6O4
